US04139389
EXAMPLE 2 Step 1: 4-chloro-5-octadecylsulfonyl-2-nitrobenzoic acid
With stirring, 15.3 g. of b 4-aminomethyl-1-(3,5-didodecylsulfonyl-2-nitrobenzoyl)piperidine hydrochloride were added to 300 ml. THF. After almost all of the hydrochloride had dissolved, 13.6 g. of 4-[4-benzoyloxy-8-methanesulfonamido-3-(N-t-butylsulfamoyl)-1-naphthylazo]benzenesulfonyl chloride were added, followed by dropwise addition of 4.0 g. of triethylamine. The viscosity of the mixture gradually decreased and stirring was continued for 4 hr. at ambient temperature. The run was filtered and the collected solid discarded. The filtrate was chromatographed on 500 g. Florisil, eluting with benzene-ethyl acetate (2:1). Crude product amounting to 18 g. was obtained from the eluate. This material was dissolved in 100 ml. ethyl acetate, filtered, diluted to 450 ml. volume with ether and allowed to stand about 15 hr. The solid that had formed was collected on a funnel, washed with a mixture of ethyl acetate and ether (1:3.5) and dried under vacuum at ambient temperature. The yield of Compound XII was 13.5 g.

reactant | 4-aminomethyl-1-(3,5-didodecylsulfonyl-2-nitrobenzoyl)piperidine hydrochloride | Cl.NCC1CCN(CC1)C(C1=C(C(=CC(=C1)S(=O)(=O)CCCCCCCCCCCC)S(=O)(=O)CCCCCCCCCCCC)[N+](=O)[O-])=O
reactant | THF | C1CCOC1 | C4H8O
reactant | hydrochloride | Cl | ClH
reactant | 4-[4-benzoyloxy-8-methanesulfonamido-3-(N-t-butylsulfamoyl)-1-naphthylazo]benzenesulfonyl chloride | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C2=C(C=CC=C12)NS(=O)(=O)C)N=NC1=CC=C(C=C1)S(=O)(=O)Cl)S(NC(C)(C)C)(=O)=O | C28H27ClN4O8S3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-chloro-5-octadecylsulfonyl-2-nitrobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1S(=O)(=O)CCCCCCCCCCCCCCCCCC)[N+](=O)[O-] | C25H40ClNO6S
